US07129235B2
8-benzyl-3-(trifluoroacetyl)-3,8-diazabicyclo[3.2.1]octane
8-Benzyl-3,8-diazabicyclo[3.2.1]octane (5.18 g, 25.6 mmol) and triethylamine (17.8 mL, 128 mmol) were combined in dry dichloromethane (50 mL) at 0° C., treated with trifluoroacetic anhydride in 1 mL portions (8.9 mL, 64 mmol), and stirred overnight at room temperature. The mixture was concentrated under reduced pressure and the residue was purified by chromatography on silica gel (9:1 hexanes:ethyl acetate) to provide the title compound. MS (DCI/NH3) m/z: 299 (M+H)+; 1H NMR (CDCl3) δ 1.66 (m, 2H), 2.06 (br, 2H), 3.08 (d, 1H), 3.25 (d, 2H), 3.53 (m, 4H), 4.12 (d, 1H), 7.34 (m, 5H).

reactant | 8-Benzyl-3,8-diazabicyclo[3.2.1]octane | 25.6 mmol, 5.18 g | C(C1=CC=CC=C1)N1C2CNCC1CC2 | C13H18N2
reactant | triethylamine | 128 mmol, 17.8 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 8-benzyl-3-(trifluoroacetyl)-3,8-diazabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1C2CN(CC1CC2)C(C(F)(F)F)=O | C15H17F3N2O
